US07737152B2
N-(5-(6-(3-Oxo-1,3-dihydroisobenzofuran-5-ylamino)pyrazin-2-yloxy)naphthalen-1-yl)acetamide, CJS 728
Method JJ. This method is identical to Method II, but uses microwave heating. Using Method JJ (heating time: 30 minutes) with 2-chloro-6-(5-acetamidonaphtyl-oxy)-pyrazine (150 mg, 0.48 mmol) and 6-amino-1,3-dihydroisobenzofuran-1-one (89 mg, 0.60 mmol), the title compound was obtained (8 mg). Yield: 4%. 1H NMR (250 MHz, DMSO-d6) δ 2.21 (s, 3H), 5.24 (s, 2H), 7.17 (d, 1H, J=8.5 Hz), 7.45-7.51 (m, 3H), 7.63 (d, 1H, J=8.2 Hz), 7.68-7.75 (m, 3H), 7.92 (s, 1H), 7.98 (s, 1H), 8.05 (d, 1H, J=8.7 Hz), 9.92 (bs, 1H), 10.00 (bs, 1H). m/z 427.1 [(M+H)+ calcd for C24H18N4O4 426.1].

reactant | 2-chloro-6-(5-acetamidonaphtyl-oxy)-pyrazine | 0.48 mmol, 150 mg | ClC1=NC(=CN=C1)OC1=CC=CC2=C(C=CC=C12)NC(C)=O | C16H12ClN3O2
reactant | 6-amino-1,3-dihydroisobenzofuran-1-one | 0.60 mmol, 89 mg | NC1=CC=C2COC(C2=C1)=O | C8H7NO2
product | N-(5-(6-(3-Oxo-1,3-dihydroisobenzofuran-5-ylamino)pyrazin-2-yloxy)naphthalen-1-yl)acetamide | Yield: 4% | O=C1OCC2=CC=C(C=C12)NC1=CN=CC(=N1)OC1=C2C=CC=C(C2=CC=C1)NC(C)=O | C24H18N4O4
